US06353025B1
To a stirred solution of 2′-chloro-4′-[2-((RS)-tetra-hydropyran-2-yloxy)ethyl]-2,2,2-trifluoroacetanilide (352 mg) in N,N-dimethylformamide (3 ml) was added sodium hydride (48 mg) under ice-cooling, and the mixture was stirred for 30 minutes at room temperature. Ethyl bromoacetate (133 μl) was added to the reaction mixture, and the mixture was stirred for 16 hours. Ethyl acetate was added to the reaction mixture, and the resulting mixture was washed with brine and dried over anhydrous magnesium sulfate. After the solvent was removed in vacuo, purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: hexane/diethyl ether=2/1) gave ethyl N-[2-chloro-4-[2-((RS)-tetrahydropyran-2-yloxy)ethyl]phenyl]-N-trifluoroacetylamino-acetate (250 mg).

reactant | 2′-chloro-4′-[2-((RS)-tetra-hydropyran-2-yloxy)ethyl]-2,2,2-trifluoroacetanilide | 352 mg | ClC1=C(NC(C(F)(F)F)=O)C=CC(=C1)CCOC1OCCCC1 | C15H17ClF3NO3
reactant | sodium hydride | 48 mg | [H-].[Na+]
reactant | Ethyl bromoacetate | 133 μl | BrCC(=O)OCC | C4H7BrO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | ethyl N-[2-chloro-4-[2-((RS)-tetrahydropyran-2-yloxy)ethyl]phenyl]-N-trifluoroacetylamino-acetate | 250 mg | ClC1=C(C=CC(=C1)CCOC1OCCCC1)N(C(C(F)(F)F)=O)CC(=O)OCC | C19H23ClF3NO5
